US05164388
Benzyl 2-Benzyl-5-hydroxy-pentanoate
The methyl ester (4 g, 18 mmol) from the above reaction was dissolved in 10 ml of benzyl alcohol and 50 ml of Benzene. After adding TsOH.H2O (0.5 g, 2.63 mmol), the contents were heated under reflux for 2 h. Once the required amount of H2O had been collected, the solution was concentrated under reduced pressure. The crude product was purified by column chromatography (silica gel, Hexane-AcOEt, 3:1) which gave 3.8 g (71%) of the title compound: 7.40-7.10 (m,10H), 5.03 (s,2H), 3.57 (t,J=6Hz,2H), 3.00-2.60 (m,≈4H), and 1.80-1.40 (m,4H).

reactant | TsOH.H2O | 2.63 mmol, 0.5 g | CC=1C=CC(=CC1)S(=O)(=O)O.O
reactant | benzyl alcohol | 10 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | Benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | Benzyl 2-Benzyl-5-hydroxy-pentanoate | 3.8 g, 71% | C(C1=CC=CC=C1)C(C(=O)OCC1=CC=CC=C1)CCCO | C19H22O3
